US04490392
5.2 g of 2-benzyloxyphenylglyoxal hydrate (crude oil) are dissolved in 15 ml of dimethylsulfoxide, and 3.54 g of α-methyl-3,4-methylenedioxyphenethylamine are added thereto. The mixture is treated in the same manner as described in Example 1-(2), whereby a solution of α-(α-methyl-3,4-methylenedioxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 5.2 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α-methyl-3,4-methylenedioxyphenethylamine | 3.54 g | CC(CC1=CC2=C(C=C1)OCO2)N | C10H13NO2
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | α-(α-methyl-3,4-methylenedioxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=CC2=C(C=C1)OCO2)N=C(C(=O)C2=CC=CC=C2)OCC2=CC=CC=C2 | C25H23NO4
